US07109357B2
A solution of (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (0.13 g, 0.6 mmol), 4-azido-5-benzyloxy-dihydrofuran-2-one (0.14 g, 0.6 mmol) and triphenylphosphine (0.28 g, 1.0 mmol) in tetrahydrofuran (5 mL) and water (5 drops) was stirred under nitrogen for 0.5 h at room temperature and for 2 h at 65° C. The reaction was cooled to room temperature, was treated with with di-isopropylethylamine (0.52 mL, 5.0 mmol), EDC (0.15 g, 0.75 mmol), and HOBT (0.10 g, 0.75 mmol) and was stirred at room temperature under nitrogen for 20 h. The reaction was diluted with ethyl acetate, was washed with 10% sodium bisulfate, saturated sodium bicarbonate, and brine, was dried over sodium sulfate, and was evaporated. Purification by flash chromatography (SiO2) eluted with 2:3 ethyl acetate:hexanes provided (R)-2-(2-benzyloxy-5-oxo-tetrahydrofuran-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.12 g, 49% yield) as a sticky resin. 1H-NMR (500 MHz, CDCl3) δ 7.63 (br d, J=7.6 Hz, 0.7H), 7.28 (m, 5H), 6.50 (br, 0.3H), 5.37 (br s, 0.5H), 5.33 (s, 0.5H), 4.77 (d, J=11.6 Hz, 1H), 4.56 (dd, J=11.6, 3.7 Hz, 1H), 4.37 (br s, 1H), 4.18 (br s, 1H), 3.32 (br s, 1.4H), 3.24 (br s, 0.6H), 2.97 (br d, J=11.6 Hz, 1H), 2.35 (dd, J=18.1, 1.7 Hz, 1H), 2.1-2.3 (br, 1H), 1.81 (br s, 3H), 1.58 (s, 9H) ppm. MS (ES+): m/e=405 (M+H).

reactant | (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.6 mmol, 0.13 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | 4-azido-5-benzyloxy-dihydrofuran-2-one | 0.6 mmol, 0.14 g | N(=[N+]=[N-])C1CC(OC1OCC1=CC=CC=C1)=O | C11H11N3O3
reactant | triphenylphosphine | 1.0 mmol, 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-isopropylethylamine | 5.0 mmol, 0.52 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC | 0.75 mmol, 0.15 g
reactant | HOBT | 0.75 mmol, 0.10 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | water | 5 drops | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-(2-benzyloxy-5-oxo-tetrahydrofuran-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.12 g, 49% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC1C(OC(C1)=O)OCC1=CC=CC=C1)=O | C21H28N2O6
